.subckt TLV431 K A REF
*
* ON Semiconductor
* C. Basso - April 2018
*
.param BetaNPN=150
.param BetaPNP=450
Q1 K 1 2 _Q1_mod 
.MODEL _Q1_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
R1 2 3 74k
R2 3 5 6.96k
Q2 A 3 6 _Q2_mod 2 
.MODEL _Q2_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
Q3 A 5 8 _Q3_mod 2 
.MODEL _Q3_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
Q4 10 8 11 _Q4_mod 8 
.MODEL _Q4_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
Q5 12 6 11 _Q5_mod 1 
.MODEL _Q5_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
R3 11 A 10k
Q6 10 10 K _Q6_mod 2 
.MODEL _Q6_mod PNP AF=1.0 BF={BETAPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
Q7 12 10 K _Q7_mod 2 
.MODEL _Q7_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
R4 1 Ref 5.1k
D1 Ref K DN4148
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
D2 A Ref DN4148
Q8 13 12 K _Q8_mod 
.MODEL _Q8_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
C1 12 A 47p
Q9 13 13 14 _Q9_mod 
.MODEL _Q9_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
Q10 15 13 A _Q10_mod 
.MODEL _Q10_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
C2 13 15 10p
Q11 15 15 K _Q11_mod 
.MODEL _Q11_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
R5 K 15 70k
Q12 16 15 K _Q12_mod 5 
.MODEL _Q12_mod PNP AF=1.0 BF={BetaPNP} BR=7.5 CJC=5.8PF
+ CJE=6.3PF IKF=.02 IS=4E-14 ISE=7E-15 KF=6E-16 NE=1.16
+ RC=2.4 TF=5E-10 TR=23E-9 VAF=50 XTB=1.5
R6 16 A 40k
D3 17 K DN754
.MODEL DN754 D BV=6.7256 CJO=320.85P IBV=10MA IS=1E-11
+ M=.33 N=1.27 RS=3.7207 TT=50N VJ=.75
D4 18 17 DN754
D5 16 18 DN754
Q13 K 16 A _Q13_mod 14 
.MODEL _Q13_mod NPN AF=1.0 BF={BetaNPN} BR=7.5 CJC=3.5PF
+ CJE=4.5PF IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5
+ RC=2.4 TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
D6 A K _D6_mod 
.MODEL _D6_mod D BV=16V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
R7 14 A 10k
R8 5 A 15k
I1 K 8 DC=10u
I2 K 6 DC=10u
.ENDS

